US05807883
160 g of (+)-N-[3-(2-cyanoethyl)-1-(4-fluorophenyl)-2,3-dihydro-5-methoxy-2-oxo-1H-indol-3-yl]-3-isoquinolinecarboxamide was dissolved in 770 ml of methyl alcohol, and under ice cooling, a hydrochloric acid gas was passed through the solution for about 2 hours. Then, 6.6 ml of water was added, and the whole mixture was refluxed under heating for 1 hour. After returning to room temperature, the reaction mixture was concentrated under reduced pressure and diluted with an aqueous sodium hydrogen carbonate solution and ethyl acetate, and the organic layer was collected by separation. This organic layer was washed with water with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and filtered, and the solvent was removed by evaporation under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: n-hexane =1:2 to 1:1) to afford (+)-methyl 3-[l-(4-fluorophenyl)-2,3-dihydro-3-(3-isoquinolinyl)carbonylamino-5-methoxy-2-oxo-1H-indol-3-yl]propionate as an amorphous substance. [α]D25 : +7.25° (c=0.248, methanol).

reactant | (+)-N-[3-(2-cyanoethyl)-1-(4-fluorophenyl)-2,3-dihydro-5-methoxy-2-oxo-1H-indol-3-yl]-3-isoquinolinecarboxamide | 160 g | C(#N)CCC1(C(N(C2=CC=C(C=C12)OC)C1=CC=C(C=C1)F)=O)NC(=O)C=1N=CC2=CC=CC=C2C1 | C28H21FN4O3
reactant | hydrochloric acid | Cl | ClH
reactant | water | 6.6 ml | O | H2O
reactant | methyl alcohol | 770 ml | CO | CH4O
product | (+)-methyl 3-[l-(4-fluorophenyl)-2,3-dihydro-3-(3-isoquinolinyl)carbonylamino-5-methoxy-2-oxo-1H-indol-3-yl]propionate | FC1=CC=C(C=C1)N1C(C(C2=CC(=CC=C12)OC)(NC(=O)C=1N=CC2=CC=CC=C2C1)CCC(=O)OC)=O | C29H24FN3O5
